US08754226B2
A mixture of (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one (Preparation E; 0.20 g, 0.56 mmol), 5-bromo-2-(trifluoromethyl)pyrimidine (0.15 g, 0.68 mmol), (S)-(−)-2,2′-bis(di-p-tolylphosphino)-1,1′-binaphthyl (0.076 g, 0.11 mmol), Pd(OAc)2 (0.025 g, 0.11 mmol), and Cs2CO3 (0.92 g, 2.8 mmol) were combined in degassed toluene (6 mL) and stirred in a sealed tube at 110° C. overnight. The solution was cooled, quenched with water, extracted with EtOAc, dried over MgSO4, and concentrated. Flash chromatography of the crude product on silica followed by trituration of the isolated material with 9:1 hexanes:DCM gave a white solid that was filtered and dried. The material was characterized as (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(1-(2-(trifluoromethyl)pyrimidin-5-yl)piperidin-4-yl)pyrrolidin-2-one (0.064 g, 0.13 mmol, 23% yield). Mass spectrum (apci) m/z=502.1 (M+H). Optical purity was not determined.

reactant | (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one | 0.56 mmol, 0.20 g | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CC1)C1CCNCC1)=O | C16H22FN3O3S
reactant | 5-bromo-2-(trifluoromethyl)pyrimidine | 0.68 mmol, 0.15 g | BrC=1C=NC(=NC1)C(F)(F)F | C5H2BrF3N2
reactant | (S)-(−)-2,2′-bis(di-p-tolylphosphino)-1,1′-binaphthyl | 0.11 mmol, 0.076 g | CC1=CC=C(C=C1)P(C2=CC=C(C=C2)C)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=C(C=C7)C)C8=CC=C(C=C8)C | C48H40P2
reactant | Cs2CO3 | 2.8 mmol, 0.92 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.11 mmol, 0.025 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(1-(2-(trifluoromethyl)pyrimidin-5-yl)piperidin-4-yl)pyrrolidin-2-one | 0.13 mmol, 0.064 g, 23% yield | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CC1)C1CCN(CC1)C=1C=NC(=NC1)C(F)(F)F)=O | C21H23F4N5O3S
